US06800629B2
In an atmosphere of nitrogen gas, 1.50 g of 6-amino-3-methoxy-2-pyrazinecarboxamide was dissolved in 12 mL of 70% hydrogen fluoride-pyridine solution at an ice-cooled temperature. Then, 0.71 g of sodium nitrite was added at −50° C., and the mixture thus obtained was stirred at 10° C. for one hour. After stirring the reaction mixture for an additional one hour, a mixture of 50 mL of ice water and 100 mL of chloroform was added, and the mixture thus obtained was separated into layers. The organic layer was washed with saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate and the solvent was removed under reduced pressure. Thus, 1.29 g of 6-fluoro-3-methoxy-2-pyrazinecarboxamide was obtained as a solid product.

reactant | 6-amino-3-methoxy-2-pyrazinecarboxamide | 1.50 g | NC1=CN=C(C(=N1)C(=O)N)OC | C6H8N4O2
reactant | sodium nitrite | 0.71 g | N(=O)[O-].[Na+]
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen fluoride-pyridine | 12 mL | N1=CC=CC=C1.F
product | 6-fluoro-3-methoxy-2-pyrazinecarboxamide | 1.29 g | FC1=CN=C(C(=N1)C(=O)N)OC | C6H6FN3O2
